*  Sonnet Data File
*  From: emgraph Version : 16.56
*  From Project: Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness
*  Data is De-embedded 
*  Data File Written: 03/24/2020 17:01:58
* < HDATE 03/06/2020 17:23:53
* < MDATE 03/06/2020 17:24:47
* < PARAMS
* < ILD_thickness = 0.6
* < ILD_dielectric_const = 4.0
* < END PARAMS
*  Spice Data
* Limits: C>0.01pF L<100.0nH R<1000.0Ohms K>0.01
    *  Analysis frequencies: 100.0, 110.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param61_0 1 2 3 4 REF
C_C1 1 REF 1.1099575592904pf
C_C2 1 2 13.80518461296pf
C_C3 1 4 0.1977133979478pf
C_C4 2 REF 1.27573202227pf
C_C5 2 3 0.0995488634661pf
C_C6 3 REF 0.3276317799908pf
C_C7 3 4 7.4944162522322pf
C_C8 4 REF 0.3204186634713pf
L_L1 3 5 1.3148424034048nh
R_RL1 5 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param61_0

    *  Analysis frequencies: 110.0, 120.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param61_1 1 2 3 4 REF
C_C1 1 REF 0.8274375592444pf
C_C2 1 2 14.064048965115pf
C_C3 1 3 0.0105520112548pf
C_C4 1 4 0.1976806012634pf
C_C5 2 REF 0.9977183589304pf
C_C6 2 3 0.0988766428152pf
C_C7 3 REF 0.3275721842654pf
C_C8 3 4 5.5622035000952pf
C_C9 4 REF 0.3208387821069pf
R_R1 1 2 945.07454957577
L_L1 3 5 1.3164400163656nh
R_RL1 5 4 1.3310071608e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param61_1

    *  Analysis frequencies: 120.0, 130.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param61_2 1 2 3 4 REF
C_C1 1 REF 0.6345575961304pf
C_C2 1 2 14.292065007276pf
C_C3 1 3 0.011059837473pf
C_C4 1 4 0.1980870862804pf
C_C5 2 REF 0.8088338425675pf
C_C6 2 3 0.0982956867098pf
C_C7 3 REF 0.3276624498301pf
C_C8 3 4 4.2134358601269pf
C_C9 4 REF 0.321294805836pf
R_R1 1 2 909.58428949908
L_L1 3 5 1.3177701382676nh
R_RL1 5 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param61_2

    *  Analysis frequencies: 130.0, 145.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param61_3 1 2 3 4 REF
C_C1 1 REF 0.4770637757651pf
C_C2 1 2 14.561792499936pf
C_C3 1 3 0.0113913660855pf
C_C4 1 4 0.1992079516915pf
C_C5 2 REF 0.6561062279094pf
C_C6 2 3 0.0977483395162pf
C_C7 3 REF 0.3279009758692pf
C_C8 3 4 3.0532600690565pf
C_C9 4 REF 0.321867250463pf
R_R1 1 2 890.21019009511
L_L1 3 5 1.3191156275287nh
R_RL1 5 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param61_3

    *  Analysis frequencies: 145.0, 160.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param61_4 1 2 3 4 REF
C_C1 1 REF 0.3620536606574pf
C_C2 1 2 14.886099847844pf
C_C3 1 3 0.0114279111637pf
C_C4 1 4 0.2013264883943pf
C_C5 2 REF 0.546840816323pf
C_C6 2 3 0.0973891677368pf
C_C7 3 REF 0.3282515496446pf
C_C8 3 4 2.1238303988686pf
C_C9 4 REF 0.3224965832675pf
R_R1 1 2 893.28220218701
L_L1 3 5 1.320459333977nh
R_RL1 5 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param61_4

    *  Analysis frequencies: 160.0, 175.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param61_5 1 2 3 4 REF
C_C1 1 REF 0.2966286731228pf
C_C2 1 2 15.233038765789pf
C_C3 1 3 0.0111173120708pf
C_C4 1 4 0.2042730028798pf
C_C5 2 REF 0.4875062122998pf
C_C6 2 3 0.097383530793pf
C_C7 3 REF 0.3285962807423pf
C_C8 3 4 1.5090683228303pf
C_C9 4 REF 0.3230329618896pf
R_R1 1 2 922.39142738859
L_L1 3 5 1.3215434934403nh
R_RL1 5 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param61_5

    *  Analysis frequencies: 175.0, 190.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param61_6 1 2 3 4 REF
C_C1 1 REF 0.260167417266pf
C_C2 1 2 15.61597732969pf
C_C3 1 3 0.0104996218711pf
C_C4 1 4 0.2080063204782pf
C_C5 2 REF 0.4576404229578pf
C_C6 2 3 0.0977372987767pf
C_C7 3 REF 0.3288890939187pf
C_C8 3 4 1.0881026466859pf
C_C9 4 REF 0.3234642119912pf
R_R1 1 2 979.27362065703
L_L1 3 5 1.3224329193565nh
R_RL1 5 4 -1.340374575e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param61_6

    *  Analysis frequencies: 190.0, 210.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param61_7 1 2 3 4 REF
C_C1 1 REF 0.2387990769058pf
C_C2 1 2 16.124064131593pf
C_C3 1 4 0.2133703487842pf
C_C4 2 REF 0.4447815197566pf
C_C5 2 3 0.0986128740917pf
C_C6 3 REF 0.329140788365pf
C_C7 3 4 0.7522523529092pf
C_C8 4 REF 0.3238380585123pf
L_L1 3 5 1.3232704351741nh
R_RL1 5 4 -1.787744236e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param61_7

    *  Analysis frequencies: 210.0, 230.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param61_8 1 2 3 4 REF
C_C1 1 REF 0.2288268114327pf
C_C2 1 2 16.789509751904pf
C_C3 1 4 0.2206984695315pf
C_C4 2 REF 0.4455879890466pf
C_C5 2 3 0.1001708641733pf
C_C6 3 REF 0.3293126154732pf
C_C7 3 4 0.4936092572964pf
C_C8 4 REF 0.3241221898591pf
L_L1 3 5 1.3240592824915nh
R_RL1 5 4 -2.191108717e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param61_8

    *  Analysis frequencies: 230.0, 255.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param61_9 1 2 3 4 REF
C_C1 1 REF 0.2265308345269pf
C_C2 1 2 17.675618092961pf
C_C3 1 4 0.2306466181639pf
C_C4 2 REF 0.4571040093762pf
C_C5 2 3 0.1026662719568pf
C_C6 3 REF 0.3293765208956pf
C_C7 3 4 0.3028602095463pf
C_C8 4 REF 0.3242976745968pf
L_L1 3 5 1.3247578810565nh
R_RL1 5 4 -2.495649699e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param61_9

    *  Analysis frequencies: 255.0, 280.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param61_10 1 2 3 4 REF
C_C1 1 REF 0.2275979417684pf
C_C2 1 2 18.844589767215pf
C_C3 1 4 0.2438111091528pf
C_C4 2 REF 0.4757284197666pf
C_C5 2 3 0.1063211413441pf
C_C6 3 REF 0.3293311386618pf
C_C7 3 4 0.1645661733546pf
C_C8 4 REF 0.3243734592852pf
L_L1 3 5 1.3253810153608nh
R_RL1 5 4 -2.6746814e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param61_10

    *  Analysis frequencies: 280.0, 310.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param61_11 1 2 3 4 REF
C_C1 1 REF 0.2284431331798pf
C_C2 1 2 20.419496331537pf
C_C3 1 4 0.2614407191918pf
C_C4 2 REF 0.4994039034177pf
C_C5 2 3 0.1115638072511pf
C_C6 3 REF 0.3291835952379pf
C_C7 3 4 0.0671091246695pf
C_C8 4 REF 0.3243707346564pf
L_L1 1 5 76.327573768217nh
R_RL1 5 2 15.412787034685
L_L2 3 6 1.3258887605001nh
R_RL2 6 4 -2.682834338e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param61_11

    *  Analysis frequencies: 310.0, 340.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param61_12 1 2 3 4 REF
C_C1 1 REF 0.2258914119695pf
C_C2 1 2 22.545962803491pf
C_C3 1 4 0.2850058199191pf
C_C4 2 REF 0.5267813080848pf
C_C5 2 3 0.1188853813654pf
C_C6 3 REF 0.3289560715514pf
C_C7 4 REF 0.3243282805635pf
L_L1 1 5 46.807525340791nh
R_RL1 5 2 10.047851026357
L_L2 3 6 1.3262782037483nh
R_RL2 6 4 -2.50018702e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param61_12

    *  Analysis frequencies: 340.0, 375.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param61_13 1 2 3 4 REF
C_C1 1 REF 0.2166519971814pf
C_C2 1 2 25.519188949415pf
C_C3 1 4 0.3175834838363pf
C_C4 2 REF 0.5583882844004pf
C_C5 2 3 0.129307434127pf
C_C6 3 REF 0.3286641737557pf
C_C7 4 REF 0.3242915531594pf
R_R1 1 2 -808.7192337531
L_L1 1 5 28.371046114108nh
R_RL1 5 2 6.217883784394
L_L2 3 6 1.3260926630973nh
R_RL2 6 4 -2.112391576e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param61_13

    *  Analysis frequencies: 375.0, 410.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param61_14 1 2 3 4 REF
C_C1 1 REF 0.1971518107759pf
C_C2 1 2 29.770865963428pf
C_C3 1 4 0.3637107981437pf
C_C4 2 REF 0.5962958101103pf
C_C5 2 3 0.1443282898238pf
C_C6 3 REF 0.3283199048403pf
C_C7 4 REF 0.3243158756683pf
R_R1 1 2 -501.0372019439
L_L1 1 5 16.815661164076nh
R_RL1 5 2 3.9141098910386
L_L2 3 6 1.3257646550393nh
R_RL2 6 4 -1.518099634e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param61_14

    *  Analysis frequencies: 410.0, 450.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param61_15 1 2 3 4 REF
C_C1 1 REF 0.1609407162096pf
C_C2 1 2 36.24075579604pf
C_C3 1 4 0.4333587417866pf
C_C4 2 REF 0.6464269002028pf
C_C5 2 3 0.1672451119393pf
C_C6 3 REF 0.3279133249799pf
C_C7 4 REF 0.3244815415274pf
R_R1 1 2 -339.4178991979
L_L1 1 5 9.7939393713562nh
R_RL1 5 2 3.1926125320933
L_L2 3 6 1.3252007600467nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param61_15

    *  Analysis frequencies: 450.0, 495.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param61_16 1 2 3 4 REF
C_C1 1 REF 0.0905132556044pf
C_C2 1 2 47.635871770661pf
C_C3 1 4 0.5553919068623pf
C_C4 2 REF 0.7270648524226pf
C_C5 2 3 0.2075973168883pf
C_C6 3 REF 0.3273704303185pf
C_C7 4 REF 0.3249678858062pf
R_R1 1 2 -237.6038931995
L_L1 1 5 5.6877395753561nh
R_RL1 5 2 1.0116226986738
L_L2 3 6 1.3241978006254nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param61_16

    *  Analysis frequencies: 495.0, 545.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param61_17 1 2 3 4 REF
C_C1 1 2 70.924495164742pf
C_C2 1 4 0.8041100914195pf
C_C3 2 REF 0.884355394771pf
C_C4 2 3 0.2899449365783pf
C_C5 3 REF 0.3265260102519pf
C_C6 4 REF 0.3262644234738pf
R_R1 1 2 -173.0125956402
L_L1 1 5 2.4166059479119nh
R_RL1 5 2 0.2315427936079
L_L2 1 6 99.780420924008nh
R_RL2 6 3 0.1452958146653
L_L3 1 7 99.003194078039nh
R_RL3 7 4 0.1460964206507
L_L4 2 8 99.800364798192nh
R_RL4 8 3 0.0114723249995
L_L5 2 9 99.025477205138nh
R_RL5 9 4 0.0112473758827
L_L6 3 10 1.3221917447366nh
R_RL6 10 4 1.0e-5
Kn_K1 L_L1 L_L2 0.077170483604
Kn_K2 L_L1 L_L3 0.0773971887053
Kn_K3 L_L1 L_L4 -0.078446995722
Kn_K4 L_L1 L_L5 -0.078828935262
Kn_K5 L_L2 L_L3 0.9933561808462
Kn_K6 L_L2 L_L4 0.9878915951015
Kn_K7 L_L2 L_L5 0.9811890364861
Kn_K8 L_L2 L_L6 -0.091390100834
Kn_K9 L_L3 L_L4 0.9812131622953
Kn_K10 L_L3 L_L5 0.9877966928029
Kn_K11 L_L3 L_L6 0.0238158842477
Kn_K12 L_L4 L_L5 0.9933575446532
Kn_K13 L_L4 L_L6 -0.091279148595
Kn_K14 L_L5 L_L6 0.0239154223129
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param61_17

    *  Analysis frequencies: 545.0, 600.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param61_18 1 2 3 4 REF
C_C1 1 2 133.87385418595pf
C_C2 1 4 1.4758442961876pf
C_C3 2 REF 1.3024924575733pf
C_C4 2 3 0.5121750639491pf
C_C5 3 REF 0.3247188135517pf
C_C6 4 REF 0.3303175418018pf
R_R1 1 2 -163.709114336
L_L1 1 5 0.86130481289nh
R_RL1 5 2 0.0341337129399
L_L2 1 6 40.889750662057nh
R_RL2 6 3 0.0215893439493
L_L3 1 7 40.168834477956nh
R_RL3 7 4 0.021879820437
L_L4 2 8 40.988889573783nh
R_RL4 8 3 0.0017408108303
L_L5 2 9 40.271430361455nh
R_RL5 9 4 0.0016507149689
L_L6 3 10 1.3169033414469nh
R_RL6 10 4 1.7514026654e-5
Kn_K1 L_L1 L_L2 0.0642146102526
Kn_K2 L_L1 L_L3 0.0644944208798
Kn_K3 L_L1 L_L4 -0.08082215277
Kn_K4 L_L1 L_L5 -0.081832408541
Kn_K5 L_L2 L_L3 0.9837925939041
Kn_K6 L_L2 L_L4 0.989481439569
Kn_K7 L_L2 L_L5 0.9731475934918
Kn_K8 L_L2 L_L6 -0.138851809092
Kn_K9 L_L3 L_L4 0.9732530844995
Kn_K10 L_L3 L_L5 0.9892934205503
Kn_K11 L_L3 L_L6 0.0409718279783
Kn_K12 L_L4 L_L5 0.9838323647614
Kn_K13 L_L4 L_L6 -0.138448524367
Kn_K14 L_L5 L_L6 0.0411569551987
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param61_18

    *  Analysis frequencies: 600.0, 660.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param61_19 1 2 3 4 REF
C_C1 1 2 487.07205941535pf
C_C2 1 4 5.2456846601096pf
C_C3 2 REF 3.6406811283441pf
C_C4 2 3 1.7578067491475pf
C_C5 3 REF 0.31607597684pf
C_C6 4 REF 0.3548062903087pf
R_R1 1 2 19.351456318826
L_L1 1 5 20.598709445179nh
R_RL1 5 REF -0.258873357036
L_L2 1 6 0.1609104018074nh
R_RL2 6 2 -0.019952866343
L_L3 1 7 9.3310006541545nh
R_RL3 7 3 -0.010523174028
L_L4 1 8 8.6631851816688nh
R_RL4 8 4 -0.011374538771
L_L5 2 9 20.488482467798nh
R_RL5 9 REF -0.276039287873
L_L6 2 10 9.366683003224nh
R_RL6 10 3 -1.464462139e-3
L_L7 2 11 8.7034248412261nh
R_RL7 11 4 -1.181562122e-3
L_L8 3 12 29.744340452998nh
R_RL8 12 REF -0.260303010414
L_L9 3 13 1.2875515235045nh
R_RL9 13 4 1.0e-5
L_L10 4 14 29.068556128367nh
R_RL10 14 REF -0.261125841733
Kn_K1 L_L1 L_L2 0.074464166499
Kn_K2 L_L1 L_L5 0.9960872691355
Kn_K3 L_L1 L_L8 0.8284366369241
Kn_K4 L_L1 L_L10 0.8378482070325
Kn_K5 L_L2 L_L3 0.0510993601671
Kn_K6 L_L2 L_L4 0.0511023803273
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.080066811336
Kn_K9 L_L2 L_L7 -0.084987102405
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L10 1.0
Kn_K12 L_L3 L_L4 0.9290863125268
Kn_K13 L_L3 L_L5 1.0
Kn_K14 L_L3 L_L6 0.9913959049755
Kn_K15 L_L3 L_L7 0.9199880004062
Kn_K16 L_L3 L_L8 1.0
Kn_K17 L_L3 L_L9 -0.282066731732
Kn_K18 L_L3 L_L10 1.0
Kn_K19 L_L4 L_L5 1.0
Kn_K20 L_L4 L_L6 0.9206170232724
Kn_K21 L_L4 L_L7 0.9907371551331
Kn_K22 L_L4 L_L8 1.0
Kn_K23 L_L4 L_L9 0.0927802754105
Kn_K24 L_L4 L_L10 1.0
Kn_K25 L_L5 L_L8 0.8277068588524
Kn_K26 L_L5 L_L10 0.8370161863592
Kn_K27 L_L6 L_L7 0.929373135693
Kn_K28 L_L6 L_L8 1.0
Kn_K29 L_L6 L_L9 -0.280872802512
Kn_K30 L_L6 L_L10 1.0
Kn_K31 L_L7 L_L8 1.0
Kn_K32 L_L7 L_L9 0.0932462383586
Kn_K33 L_L7 L_L10 1.0
Kn_K34 L_L8 L_L9 0.1586280992853
Kn_K35 L_L8 L_L10 0.9781722428275
Kn_K36 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param61_19

    *  Analysis frequencies: 660.0, 725.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param61_20 1 2 3 4 REF
C_C1 1 REF 10.948542525778pf
C_C2 1 3 5.6802381728491pf
C_C3 2 4 17.043078883731pf
C_C4 3 REF 0.3641006685652pf
C_C5 4 REF 0.2074152667943pf
R_R1 1 REF -487.9824338486
R_R2 1 2 3.2838462661086
R_R3 1 3 -953.5347999526
R_R4 1 4 306.53056145256
R_R5 2 REF 479.66845517081
R_R6 2 3 953.52957093103
R_R7 2 4 -306.7467144292
L_L1 1 5 4.7926890522475nh
R_RL1 5 REF -0.014201724736
L_L2 1 6 0.2553391636643nh
R_RL2 6 2 -0.371705190927
L_L3 1 7 2.9196231786365nh
R_RL3 7 3 -0.170984519501
L_L4 1 8 2.354050470948nh
R_RL4 8 4 -0.228291662567
L_L5 2 9 5.0096214618046nh
R_RL5 9 REF -0.425405612338
L_L6 2 10 2.8505172141972nh
R_RL6 10 3 -0.038464266969
L_L7 2 11 2.2435861885795nh
R_RL7 11 4 -0.017388675534
L_L8 3 12 7.7088794361078nh
R_RL8 12 REF -0.211561147408
L_L9 3 13 1.1876206312736nh
R_RL9 13 4 -4.108767172e-3
L_L10 4 14 7.1517183102564nh
R_RL10 14 REF -0.27308531703
Kn_K1 L_L1 L_L2 0.0173591824186
Kn_K2 L_L1 L_L5 0.9741897183088
Kn_K3 L_L1 L_L8 0.7882036447761
Kn_K4 L_L1 L_L10 0.8190491176627
Kn_K5 L_L2 L_L3 0.1878837173537
Kn_K6 L_L2 L_L4 0.2359126320539
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.10914568188
Kn_K9 L_L2 L_L7 -0.095704641937
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L9 0.037552191691
Kn_K12 L_L2 L_L10 1.0
Kn_K13 L_L3 L_L4 0.7792964815927
Kn_K14 L_L3 L_L5 1.0
Kn_K15 L_L3 L_L6 0.9558167404754
Kn_K16 L_L3 L_L7 0.7348670023554
Kn_K17 L_L3 L_L8 1.0
Kn_K18 L_L3 L_L9 -0.470757825489
Kn_K19 L_L3 L_L10 1.0
Kn_K20 L_L4 L_L5 1.0
Kn_K21 L_L4 L_L6 0.7180792226988
Kn_K22 L_L4 L_L7 0.9447356732092
Kn_K23 L_L4 L_L8 1.0
Kn_K24 L_L4 L_L9 0.1860146277095
Kn_K25 L_L4 L_L10 1.0
Kn_K26 L_L5 L_L6 0.0200137111986
Kn_K27 L_L5 L_L7 0.0151361909798
Kn_K28 L_L5 L_L8 0.7939631477704
Kn_K29 L_L5 L_L9 -0.010202237944
Kn_K30 L_L5 L_L10 0.8284678553198
Kn_K31 L_L6 L_L7 0.7723652122755
Kn_K32 L_L6 L_L8 1.0
Kn_K33 L_L6 L_L9 -0.487669132927
Kn_K34 L_L6 L_L10 1.0
Kn_K35 L_L7 L_L8 1.0
Kn_K36 L_L7 L_L9 0.1778704528994
Kn_K37 L_L7 L_L10 1.0
Kn_K38 L_L8 L_L9 0.2883212303485
Kn_K39 L_L8 L_L10 0.9207299372848
Kn_K40 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param61_20

    *  Analysis frequencies: 725.0, 795.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param61_21 1 2 3 4 REF
C_C1 1 2 565.56568365311pf
C_C2 1 4 6.0810094292126pf
C_C3 2 REF 4.1605829278609pf
C_C4 2 3 2.03612264927pf
C_C5 3 REF 0.3131575077808pf
C_C6 4 REF 0.3590674263571pf
R_R1 1 REF 595.97450663678
R_R2 1 2 -4.020575976748
R_R3 1 4 -376.0504930954
R_R4 2 REF -604.1792310281
R_R5 2 4 376.16117594489
L_L1 1 5 12.01580110838nh
R_RL1 5 REF -0.040360079929
L_L2 1 6 0.0653672216399nh
R_RL2 6 2 0.0269629009482
L_L3 1 7 5.7961508511139nh
R_RL3 7 3 0.0142822154535
L_L4 1 8 5.1417327713464nh
R_RL4 8 4 0.0161147560981
L_L5 2 9 11.923058520662nh
R_RL5 9 REF -0.01210707132
L_L6 2 10 5.8293912943073nh
R_RL6 10 3 0.0019900299542
L_L7 2 11 5.1821900752653nh
R_RL7 11 4 0.0013699563161
L_L8 3 12 17.708487983916nh
R_RL8 12 REF -0.023384193667
L_L9 3 13 1.2618296942601nh
R_RL9 13 4 7.6043787424e-5
L_L10 4 14 17.046239549418nh
R_RL10 14 REF -0.021537037582
Kn_K1 L_L1 L_L2 0.0892015581824
Kn_K2 L_L1 L_L5 0.9972768936317
Kn_K3 L_L1 L_L8 0.8201849715773
Kn_K4 L_L1 L_L10 0.8356917416838
Kn_K5 L_L2 L_L3 0.0260968043477
Kn_K6 L_L2 L_L4 0.0214836235376
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.079870988881
Kn_K9 L_L2 L_L7 -0.090911673479
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L9 -0.012564289764
Kn_K12 L_L2 L_L10 1.0
Kn_K13 L_L3 L_L4 0.8862243810213
Kn_K14 L_L3 L_L5 1.0
Kn_K15 L_L3 L_L6 0.9943813401384
Kn_K16 L_L3 L_L7 0.8798272651834
Kn_K17 L_L3 L_L8 1.0
Kn_K18 L_L3 L_L9 -0.354283932051
Kn_K19 L_L3 L_L10 1.0
Kn_K20 L_L4 L_L5 1.0
Kn_K21 L_L4 L_L6 0.8814190762975
Kn_K22 L_L4 L_L7 0.9936760036134
Kn_K23 L_L4 L_L8 1.0
Kn_K24 L_L4 L_L9 0.1192334125171
Kn_K25 L_L4 L_L10 1.0
Kn_K26 L_L5 L_L8 0.8190335815821
Kn_K27 L_L5 L_L10 0.8342640265659
Kn_K28 L_L6 L_L7 0.8869421322892
Kn_K29 L_L6 L_L8 1.0
Kn_K30 L_L6 L_L9 -0.351941912499
Kn_K31 L_L6 L_L10 1.0
Kn_K32 L_L7 L_L8 1.0
Kn_K33 L_L7 L_L9 0.120178184912
Kn_K34 L_L7 L_L10 1.0
Kn_K35 L_L8 L_L9 0.2035174231097
Kn_K36 L_L8 L_L10 0.9638682947185
Kn_K37 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param61_21

    *  Analysis frequencies: 795.0, 875.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param61_22 1 2 3 4 REF
C_C1 1 2 80.557043374287pf
C_C2 1 4 0.9008828003021pf
C_C3 2 REF 0.9528930933959pf
C_C4 2 3 0.3257309635222pf
C_C5 3 REF 0.3237005506293pf
C_C6 4 REF 0.3238974247209pf
R_R1 1 2 -49.89478152626
L_L1 1 5 0.3337328756057nh
R_RL1 5 2 0.068029169885
L_L2 1 6 34.100790530003nh
R_RL2 6 3 0.0439125258356
L_L3 1 7 33.339885656574nh
R_RL3 7 4 0.0446117381147
L_L4 2 8 34.389481851624nh
R_RL4 8 3 0.0015629400918
L_L5 2 9 33.637189801828nh
R_RL5 9 4 0.0014186520356
L_L6 3 10 1.3120852166765nh
R_RL6 10 4 1.0e-5
Kn_K1 L_L1 L_L4 -0.091863748057
Kn_K2 L_L1 L_L5 -0.094170634104
Kn_K3 L_L2 L_L3 0.980607017672
Kn_K4 L_L2 L_L4 0.9951361354903
Kn_K5 L_L2 L_L5 0.9755988715293
Kn_K6 L_L2 L_L6 -0.154954426014
Kn_K7 L_L3 L_L4 0.9759444427316
Kn_K8 L_L3 L_L5 0.9950270103507
Kn_K9 L_L3 L_L6 0.0416678076907
Kn_K10 L_L4 L_L5 0.9807721688268
Kn_K11 L_L4 L_L6 -0.153661558922
Kn_K12 L_L5 L_L6 0.0421314807656
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param61_22

    *  Analysis frequencies: 875.0, 960.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param61_23 1 2 3 4 REF
C_C1 1 REF 0.2490565876534pf
C_C2 1 2 28.096328979856pf
C_C3 1 4 0.3402264859916pf
C_C4 2 REF 0.6112545961391pf
C_C5 2 3 0.1400051189691pf
C_C6 3 REF 0.3239388304228pf
C_C7 4 REF 0.3190961179025pf
R_R1 1 2 -171.4509519294
L_L1 1 5 0.7237796625356nh
R_RL1 5 2 0.1523640084627
L_L2 3 6 1.3179283520898nh
R_RL2 6 4 -3.733610561e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param61_23

    *  Analysis frequencies: 960.0, 1055.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param61_24 1 2 3 4 REF
C_C1 1 REF 0.3524480716405pf
C_C2 1 2 13.210324880855pf
C_C3 1 3 0.0352980808791pf
C_C4 1 4 0.1819614089363pf
C_C5 2 REF 0.5213221614996pf
C_C6 2 3 0.0857630484839pf
C_C7 3 REF 0.3230917902674pf
C_C8 4 REF 0.3167274664015pf
R_R1 1 2 -749.6875734022
L_L1 1 5 1.1039119318341nh
R_RL1 5 2 0.0889180071082
L_L2 3 6 1.3172254868724nh
R_RL2 6 4 -3.808073302e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param61_24

    *  Analysis frequencies: 1055.0, 1160.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param61_25 1 2 3 4 REF
C_C1 1 REF 0.3961515648289pf
C_C2 1 2 7.5854423365458pf
C_C3 1 3 0.0607240456411pf
C_C4 1 4 0.1215515304689pf
C_C5 2 REF 0.4935471554469pf
C_C6 2 3 0.0634258481677pf
C_C7 2 4 0.0118504446435pf
C_C8 3 REF 0.3217469092082pf
C_C9 4 REF 0.3146636103579pf
L_L1 1 5 1.6716261938391nh
R_RL1 5 2 5.1005469105e-4
L_L2 3 6 1.3149991680979nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param61_25

    *  Analysis frequencies: 1160.0, 1200.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param61_26 1 2 3 4 REF
C_C1 1 REF 0.4134055199273pf
C_C2 1 2 5.884742639794pf
C_C3 1 3 0.0712758768pf
C_C4 1 4 0.1018106854528pf
C_C5 2 REF 0.4884859216542pf
C_C6 2 3 0.055334303187pf
C_C7 2 4 0.0341959995124pf
C_C8 3 REF 0.3205955167361pf
C_C9 4 REF 0.3131836072974pf
L_L1 1 5 1.8215541404925nh
R_RL1 5 2 1.1042432647e-4
L_L2 3 6 1.3140237440651nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param61_26

